US04091115
12.4 ml of 18 N sulfuric acid were added to a refluxing solution of 6.2 g of 7-allylamino-5-ξ-hydroxy-6,7,8,9-tetrahydro [5H] benzocycloheptene in 124 ml of dioxane and the mixture was refluxed for 30 minutes and was cooled. The mixture was concentrated to 40 ml and 100 ml of ice water were added. The aqueous phase was washed with ethyl acetate and made alkaline with concentrated ammonium hydroxide. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried and evaporated to dryness to obtain 4.5 g of 7-allylamino-6,7-dihydro [5H] benzocycloheptene.

reactant | sulfuric acid | 18 N, 12.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 7-allylamino-5-ξ-hydroxy-6,7,8,9-tetrahydro [5H] benzocycloheptene | 6.2 g | C(C=C)NC1CC(C2=C(CC1)C=CC=C2)O | C14H19NO
solvent | dioxane | 124 ml | O1CCOCC1 | C4H8O2
product | 7-allylamino-6,7-dihydro [5H] benzocycloheptene | 4.5 g | C(C=C)NC1CCC2=C(C=C1)C=CC=C2 | C14H17N
